US05545621
Monotetrahydropyranyl ethylene glycol
Dihydropyran (18.25 mL, 200 mmol) was added dropwise to a cold (0° ) mixture of ethylene glycol (55.92 mL, 1 mol) in 500 mL CH2Cl2 containing 3.8 g (20 mmol) of dissolved p-toluene sulfonic acid monohydrate over 2 hrs. The mixture was allowed to stir for an additional 2 hrs at this temperature, and then was allowed to warm to rt. Stirring continued for 2 days, after which the mixture was poured into a separating funnel and allowed to separate. The lower organic layer was removed and saved, and the upper layer was extracted with 100 mL CH2Cl2. The combined CH2Cl2 layers were washed six times with 100 mL portions of sat'd NaCl, and dried over Na2SO4. The solution was filtered and reduced, and the residue was purified by chromatography with the same silica as above. The column was eluted isocratically with 3:2 EtOAc:hexane which contained 1% triethylamine (TEA). Fractions which contained pure product, rf 0.5 (using the same TLC system as above) were pooled and evaporated to give 9.7 g (33% yield) of a colorless oil. 1H NMR (300 mHz, CDCl3, PPM) 5.6-5.5, m, 1H. 4.0-3.9, m, 1H. 4.8-4.65, m, 4H. 3.6-3.5, m, 1H. 1.9-1.7, m, 2H. 1.65-1.5, m, 4H.

reactant | Dihydropyran | 200 mmol, 18.25 mL | O1CCCC=C1 | C5H8O
reactant | ethylene glycol | 1 mol, 55.92 mL | C(CO)O | C2H6O2
reactant | CH2Cl2 | 20 mmol, 500 mL, 3.8 g | C(Cl)Cl | CH2Cl2
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Monotetrahydropyranyl ethylene glycol | 9.7 g, 33% yield | O1C(CCCC1)C(CO)O | C7H14O3
